US08071588B2
N1-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N4-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,2-dimethylbutanediamide
174(d) 1,1-Dimethylethyl (2S)-4-{[5′-({[4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3,3-dimethyl-4-oxobutanoyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate was dissolved in 2 mL of dioxane and 0.5 mL of MeOH. HCl (concentrated, 101 mg, 2.78 mmol) was added to the resultant solution and heated at 60° C. for 1 h. The solution was applied to an amine column, rinsed with 4 mL of MeOH to afford 7 mg of the title compound (3.5%). LC-MS m/z 727 (M+H)+, 1.23 min (ret time). The structure of the title compound was confirmed by gCOSY45, gHMQC, gHMBC and 13C gaspe spectra.

reactant | 1,1-Dimethylethyl (2S)-4-{[5′-({[4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3,3-dimethyl-4-oxobutanoyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C(CC(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)F)(C)C)=O)CC | C46H63FN8O5
reactant | HCl | 2.78 mmol, 101 mg | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 0.5 mL | CO | CH4O
product | N1-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N4-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,2-dimethylbutanediamide | 7 mg, 3.5% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C(CC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)(C)C)=O)CC | C41H55FN8O3
